US20010049441A1
3-(1,2,3,5,8,8a-Hexahydro-7-indolizinyl)-1H-6-azaindole (273 mg, 53.9%);
from 6-azaindole (250 mg, 2.1 mmol), 1,2,3,5,6,8,8a-heptahydrohydro-7-oxo-indolizine (324 mg, 2.3 mmol) and pyrrolidine (1.2 g, 16.9 mmol) in ethanol (2 mL) heating at reflux for 6 hrs.

reactant | 6-azaindole | 2.1 mmol, 250 mg | N1C=CC2=CC=NC=C12 | C7H6N2
reactant | pyrrolidine | 16.9 mmol, 1.2 g | N1CCCC1 | C4H9N
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | 3-(1,2,3,5,8,8a-Hexahydro-7-indolizinyl)-1H-6-azaindole | C1CCN2CC=C(CC12)C1=CNC2=CN=CC=C12 | C15H17N3
